US07504408B2
N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinazolin-4-amine
A solution of sodium bis(trimethylsilyl)amide (1.28 ml) in tetrahydrofuran (1.0M, 1.28 mmol) was added to a suspension of 5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine (0.153 g) and 4-chloro-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinazoline (0.260 g) in DMF (4 ml) that had been cooled to −10° C. and the mixture was stirred for 90 minutes. A further portion of sodium bis(trimethylsilyl)amide (0.64 ml) in tetrahydrofuran (1.0M, 0.64 mmol) was added and the reaction was allowed to warm to room temperature and then stirred for a further 2 hours. The reaction mixture was quenched into water and saturated ammonium chloride solution was added. This was then extracted into dichloromethane and the organic portion was then washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of dichloromethane and methanol as eluent. The product material gathered after chromatography as a foam was triturated with diethyl ether giving an off-white solid. This was then re-dissolved into dichloromethane and then evaporated under reduced pressure. The resulting solid was triturated with diethyl ether and air-dried. There was thus obtained the title compound (0.141 g) as a white solid; NMR Spectrum: (CDCl3) 2.00 (m, 4H), 2.23 (m, 2H), 2.48 (m, 4H), 2.54 (t, 2H), 3.46 (s, 3H), 3.63 (dq, 2H), 3.73 (t, 4H), 4.02 (dt, 2H), 4.16 (t, 2H), 4.35 (s, 2H), 4.76 (tt, 1H), 6.11 (s, 2H), 6.51 (d, 1H), 6.85 (d, 1H), 7.06 (s, 1H), 8.52 (s, 1H), 9.26 (s, 1H); Mass Spectrum: M+H+ 611/613.

reactant | sodium bis(trimethylsilyl)amide | 1.28 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 1.28 mmol, 1.0M | O1CCCC1 | C4H8O
reactant | 5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.153 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)N | C11H10ClNO3
reactant | 4-chloro-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinazoline | 0.260 g | ClC1=NC=NC2=CC(=CC(=C12)OC1CCOCC1)OCCCN1CCOCC1 | C20H26ClN3O4
reactant | sodium bis(trimethylsilyl)amide | 0.64 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 0.64 mmol, 1.0M | O1CCCC1 | C4H8O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinazolin-4-amine | 0.141 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=CC(=C12)OC1CCOCC1)OCCCN1CCOCC1 | C31H35ClN4O7
